US04071625
Substituting 1α,7β-dimethyl-4-androstene-3,17-dione and 1β,6α-dimethyl-4-androstene-3,17-dione for the 1β-methyl-4-androstene-3,17-dione above results in the preparation of 1,62, 7αdimethyl-5-androstene-3β,17β-diol diacetate and 1β,6-dimethyl-5-androstene-3β,17β-diol diacetate, respectively.

reactant | 1α,7β-dimethyl-4-androstene-3,17-dione | C[C@H]1CC(C=C2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)C)=O | C21H30O2
reactant | 1β,6α-dimethyl-4-androstene-3,17-dione | C[C@@H]1CC(C=C2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)C)=O | C21H30O2
reactant | 1β-methyl-4-androstene-3,17-dione | C[C@@H]1CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C20H28O2
product | 1β,6-dimethyl-5-androstene-3β,17β-diol diacetate | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H](C1)C)C)OC(C)=O)C | C25H38O4
